US07728150B2
3-(1-Ethyl-5-fluoro-indan-1-yl)-1H-indole
Utilizing 1-ethyl-5-fluoro-indan-1-ol and indole, the title compound is prepared as in example 1.89 mg (54%). LC-MS m/z 280.0 (M++1).

reactant | 1-ethyl-5-fluoro-indan-1-ol | C(C)C1(CCC2=CC(=CC=C12)F)O | C11H13FO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 3-(1-Ethyl-5-fluoro-indan-1-yl)-1H-indole | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=CC=CC=C12 | C19H18FN
